US08669234B2
{1-[1′-Benzoyl-4-(4-bromo-phenyl)-1′,2′,4′,5′-tetrahydro-1H-[2,4′]biimidazolyl-3′-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (crude, <0.101 mmol) was combined with [2-Methyl-1-(2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester (45.1 mg, 0.091 mmol) under an argon atmosphere. Potassium carbonate (27.8 mg, 0.202 mmol) and Pd(PPh3)4 (10 mg, 0.009 mmol) were added, followed by DME (2.0 mL) and water (0.4 mL). The mixture was heated under microwave conditions for 20 minutes at 120° C. All volatiles were removed in vacuo and the crude material was dissolved in DMF and purified via RP-HPLC (eluent: water/MeCN w 0.1% TFA) to yield the product {1-[1′-Benzoyl-5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1′,2′,4′,5′-tetrahydro-1H-[2,4]biimidazolyl-3′-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (20.7 mg): LCMS-ESI+: calc'd for C46H53N9O7: 843.9 (M+). Found: 844.3 (M+H+); 1H-NMR: 300 MHz, (MeOH-d4) δ: 7.90-7.84 (m, 10H), 7.66-7.52 (m, 5H), 5.68 (m, 1H), 5.59 (m, 1H), 5.49 (m, 1H), 5.26 (m, 1H), 4.24 (d, J=7.5 Hz, 1H), 4.11 (m, 2H), 3.86 (m, 2H), 3.66 (s, 3H), 3.65 (s, 3H), 3.46 (d, J=5.7 Hz, 1H), 2.57 (m, 1H), 2.29-2.09 (m, 5H), 1.01-0.85 (m, 12H).

reactant | {1-[1′-Benzoyl-4-(4-bromo-phenyl)-1′,2′,4′,5′-tetrahydro-1H-[2,4′]biimidazolyl-3′-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | <0.101 mmol | COC(NC(C(C)C)C(=O)N1CN(CC1C=1NC=C(N1)C1=CC=C(C=C1)Br)C(C1=CC=CC=C1)=O)=O | C26H28BrN5O4
reactant | [2-Methyl-1-(2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester | 0.091 mmol, 45.1 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C26H37BN4O5
reactant | Potassium carbonate | 0.202 mmol, 27.8 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DME | 2.0 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.009 mmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 0.4 mL | O | H2O
product | {1-[1′-Benzoyl-5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1′,2′,4′,5′-tetrahydro-1H-[2,4]biimidazolyl-3′-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | 20.7 mg | COC(NC(C(C)C)C(=O)N1CN(CC1C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)C(C1=CC=CC=C1)=O)=O | C46H53N9O7
